US05389684
A solution of N-[2-(cyclohexylamino)ethyl]-1-methoxy-4-nitro naphthalene-2-carboxamide hydrochloride (0.38 g, 0.001 m) in ethanol (100 ml) was hydrogenated at 60 psi using 5% Pd/C as catalyst for 18 hours. The catalyst was removed by filtration and the solvent removed in vacuo. The product was crystallised from ethanol/ether to give 0.3 g of 4-amino-N-[2-(cyclohexylamino)ethyl]-1-methoxy naphthalene-2-carboxamide hydrochloride, m.p. 250°-252° C.

reactant | N-[2-(cyclohexylamino)ethyl]-1-methoxy-4-nitro naphthalene-2-carboxamide hydrochloride | 0.38 g | Cl.C1(CCCCC1)NCCNC(=O)C1=C(C2=CC=CC=C2C(=C1)[N+](=O)[O-])OC
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 4-amino-N-[2-(cyclohexylamino)ethyl]-1-methoxy naphthalene-2-carboxamide hydrochloride | 0.3 g | Cl.NC1=CC(=C(C2=CC=CC=C12)OC)C(=O)NCCNC1CCCCC1 | InChI=1S/C20H27N3O2.ClH/c1-25-19-16-10-6-5-9-15(16)18(21)13-17(19)20(24)23-12-11-22-14-7-3-2-4-8-14;/h5-6,9-10,13-14,22H,2-4,7-8,11-12,21H2,1H3,(H,23,24);1H
